US08466114B2
To a solution of 1-benzyl-7-bromo-1,2,3,4-tetrahydro-quinoline (2.50 g, 8.27 mmol) in THF (20 mL) was added 1.6 M n-butyl lithium in hexanes (5.14 mL, 8.27 mmol) at −78° C. The mixture was stirred for 45 min. then transferred to a stirred solution of 5-bromo-2-isopropylbenzaldehyde (1.87 g, 8.27 mmol) in THF (15 mL) at −78° C. After stirring for 30 min, the reaction was quenched by the addition of saturated aqueous solution of ammonium chloride, and the resulting mixture was extracted with ethyl acetate (3×30 mL). The organic layers were combined and washed with water (25 mL) and brine (25 mL), then dried over sodium sulfate, concentrated and purified using neutral alumina column chromatography to furnish (1-benzyl-1,2,3,4-tetrahydro-quinolin-7-yl)-(5-bromo-2-isopropyl-phenyl)-methanol (2.64 g).

reactant | 1-benzyl-7-bromo-1,2,3,4-tetrahydro-quinoline | 8.27 mmol, 2.50 g | C(C1=CC=CC=C1)N1CCCC2=CC=C(C=C12)Br | C16H16BrN
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | 5-bromo-2-isopropylbenzaldehyde | 8.27 mmol, 1.87 g | BrC=1C=CC(=C(C=O)C1)C(C)C | C10H11BrO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (1-benzyl-1,2,3,4-tetrahydro-quinolin-7-yl)-(5-bromo-2-isopropyl-phenyl)-methanol | 2.64 g | C(C1=CC=CC=C1)N1CCCC2=CC=C(C=C12)C(O)C1=C(C=CC(=C1)Br)C(C)C | C26H28BrNO
